US07585886B2
A 320 mg portion of 4-{[(3S,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]sulfonyl}benzoic acid was dissolved at room temperature in 3.0 ml of 4 M hydrogen chloride/1,4-dioxane solution and stirred for 24Hours. The reaction solution was diluted with diethyl ether and then concentrated under a reduced pressure, the thus obtained residue was dissolved in THF and mixed with diisopropyl ether, and the thus precipitated solid was collected by filtration and dried under a reduced pressure to obtain 183 mg of 4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]sulfonyl}benzoic acid hydrochloride as a colorless solid.

reactant | 4-{[(3S,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]sulfonyl}benzoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C35H38N2O6S
reactant | hydrogen chloride 1,4-dioxane | 4 M, 3.0 ml | Cl.O1CCOCC1
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]sulfonyl}benzoic acid hydrochloride | 183 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C30H30N2O4S.ClH/c1-21(27-13-7-11-22-10-5-6-12-28(22)27)31-18-25-19-32(20-29(25)23-8-3-2-4-9-23)37(35,36)26-16-14-24(15-17-26)30(33)34;/h2-17,21,25,29,31H,18-20H2,1H3,(H,33,34);1H/t21-,25+,29-;/m1./s1
